US07683160B2
1-Chloro-4-(β-glucopyranos-1-yl)-2-[4-(1-methoxycarbonyl-cyclopent-1-yloxy)-benzyl]-benzene
A mixture of 1-chloro-4-(β-glucopyranos-1-yl)-2-(4-hydroxybenzyl)-benzene (0.46 g), 1-bromo-1-methoxycarbonylcyclopentane (0.87 g), potassium iodide (0.1 g) and potassium carbonate (0.5 g) in methanol (5 mL) is stirred at reflux for 16 h. After cooling to ambient temperature, water is added and the resultant mixture is extracted with ethyl acetate. The combined organic phases are dried (Na2SO4), the solvent is removed and the residue is purified by chromatography on silica gel (dichloromethane/methanol 1:0→4:1).

reactant | 1-chloro-4-(β-glucopyranos-1-yl)-2-(4-hydroxybenzyl)-benzene | 0.46 g | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)O | C19H21ClO7
reactant | 1-bromo-1-methoxycarbonylcyclopentane | 0.87 g | BrC1(CCCC1)C(=O)OC | C7H11BrO2
reactant | potassium iodide | 0.1 g | [I-].[K+]
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 5 mL | CO | CH4O
solvent | water | O | H2O
product | 1-Chloro-4-(β-glucopyranos-1-yl)-2-[4-(1-methoxycarbonyl-cyclopent-1-yloxy)-benzyl]-benzene | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)OC1(CCCC1)C(=O)OC | C26H31ClO9
